US04113731
1-Hydroxy-3-phenyl-3H-pyrazolo[3,4-c]isoquinolin-5(4H)-one
2.51 Grams (0.01 mole) of 5-amino-3-hydroxy-1,4-diphenylpyrazole is mixed with 1.62 ml (0.015 mole) of phenylisocyanate and is gradually heated to 290° C. The obtained residue is then ground and boiled with 40 ml of ethyl acetate. 2.7 Grams of crude compound recovered by filtering the hot mixture is taken up with aqueous 4% NaOH. On acidifying the filtered solution with acetic acid, 2.24 g of the title compound precipitates. Yield 81%.

reactant | 5-amino-3-hydroxy-1,4-diphenylpyrazole | 0.01 mole | NC1=C(C(=NN1C1=CC=CC=C1)O)C1=CC=CC=C1 | C15H13N3O
reactant | phenylisocyanate | 0.015 mole, 1.62 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 1-Hydroxy-3-phenyl-3H-pyrazolo[3,4-c]isoquinolin-5(4H)-one | Yield 81% | OC1=NN(C=2NC(C=3C=CC=CC3C21)=O)C2=CC=CC=C2 | C16H11N3O2
